datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[O:10]>>[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])[H:5].[H:4][O:10],15.64816
[C:0](=[C:1]([O:2][H:6])[H:5])([H:3])[H:4].[O:7]>>[C:0](=[C:1]([O:2])[H:5])([H:3])[H:4].[H:6][O:7],17.2799
[O:0][O:1][C:2]([O:3][C:4](=[O:5])[H:8])([H:6])[H:7]>>[O:0]([O:1][C:2]([O:3][C:4]=[O:5])([H:6])[H:7])[H:8],120.9176
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17]([C:18]([H:21])([H:22])[H:23])([H:19])[H:20]>>[C:0]([C:1]([C:2]([C:3]([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[H:11][C:17]([C:18]([H:21])([H:22])[H:23])([H:19])[H:20],56.0656
[C:0]([C:1]([C:2]([O:3])([H:9])[H:10])([H:7])[H:8])([H:4])([H:5])[H:6]>>[C:0]([C:1]([C:2]([O:3][H:4])([H:9])[H:10])([H:7])[H:8])([H:5])[H:6],123.01
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])[H:7])[H:6].[C:14]([H:15])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])([C:5]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17])[H:7])[H:6],19.9995
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:8])[H:9])[H:7])([H:4])([H:5])[H:6].[C:13]([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:8])[H:9])[H:7])([H:5])[H:6].[H:4][C:13]([H:14])([H:15])[H:16],0.0
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[C:5]([H:14])[H:15])[H:13])[H:9])[H:8])([H:6])[H:7].[c:16]1[c:17]([H:22])[c:18]([H:23])[c:19]([H:24])[c:20]([H:25])[c:21]1[H:26]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[C:5]([H:14])[H:15])[H:13])[H:8])([H:6])[H:7].[H:9][c:16]1[c:17]([H:22])[c:18]([H:23])[c:19]([H:24])[c:20]([H:25])[c:21]1[H:26],-27.6144
[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5].[C:9](=[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[S:13][H:20])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])[H:7])[H:5].[H:6][C:11]([C:10](=[C:9]([H:14])[H:15])[H:16])([C:12]([H:17])([H:18])[H:19])[S:13][H:20],82.4666
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[H:11])([H:9])[H:10].[C:21]([C:22]([H:25])([H:26])[H:27])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])([C:7](=[C:8]([H:19])[H:20])[H:18])[C:21]([C:22]([H:25])([H:26])[H:27])([H:23])[H:24])[H:11])([H:9])[H:10],17.1126
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5]([C:6]([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8])[H:7]>>[C:0](#[C:1][C:2]([C:3]1([H:9])[C:4]([H:10])([H:11])[C:5]([H:12])([H:13])[C:6]1([H:14])[H:15])[H:8])[H:7],57.0279
[C:0]([c:1]1[c:2]([H:14])[c:3]([H:15])[c:4]2[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]([H:19])[c:9]2[c:10]1[H:20])([H:11])([H:12])[H:13].[C:21]([H:22])([H:23])[H:24]>>[C:0]([c:1]1[c:2]([H:14])[c:3]([H:15])[c:4]2[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]([H:19])[c:9]2[c:10]1[H:20])([H:12])[H:13].[H:11][C:21]([H:22])([H:23])[H:24],45.7296
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([c:10]1[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]1[H:22])([H:16])[H:17]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])([H:4])[C:9]([c:10]1[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]1[H:22])([H:16])[H:17],38.8275
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[H:16])([H:5])([H:6])[H:7].[C:17]([O:18])([H:19])([H:20])[H:21]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[H:16])([H:6])[H:7].[H:5][O:18][C:17]([H:19])([H:20])[H:21],29.288
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:14])([H:15])[H:16])[C:5]([C:6]([C:7]([C:8]([C:9]([H:23])([H:24])[H:25])[C:10](=[C:11]([H:27])[H:28])[H:26])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])[H:13])[H:12]>>[C:0](#[C:1][C:2]1([H:13])[C:3]([C:4]([H:14])([H:15])[H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]([H:21])([H:22])[C:8]1([C:9]([H:23])([H:24])[H:25])[C:10](=[C:11]([H:27])[H:28])[H:26])[H:12],72.0485
[C:0](#[C:1][C:2]#[C:3][C:4]([H:6])([H:7])[H:8])[H:5].[C:9]([C:10](=[C:11]([H:15])[H:16])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2](=[C:3][C:4]([H:6])([H:7])[H:8])[C:9]([C:10](=[C:11]([H:15])[H:16])[H:14])([H:12])[H:13])[H:5],62.9692
[C:0](=[C:1]=[C:2]([C:3]([H:8])([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])([H:6])[H:7].[C:14]([C:15](=[C:16]([H:20])[H:21])[H:19])([H:17])[H:18]>>[C:0](=[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4](=[C:5]([H:12])[H:13])[H:11])[C:14]([C:15](=[C:16]([H:20])[H:21])[H:19])([H:17])[H:18])([H:6])[H:7],62.6763
[C:0]([C:1]([c:2]1[c:3]([H:17])[c:4]([H:18])[c:5]([H:19])[c:6]2[c:7]([H:20])[c:8]([H:21])[c:9]([H:22])[c:10]([H:23])[c:11]12)([H:15])[H:16])([H:12])([H:13])[H:14].[H:24]>>[C:0]([C:1]([C:2]1[C:3]([H:17])([H:24])[C:4]([H:18])=[C:5]([H:19])[c:6]2[c:7]([H:20])[c:8]([H:21])[c:9]([H:22])[c:10]([H:23])[c:11]21)([H:15])[H:16])([H:12])([H:13])[H:14],18.5634
